US05051422
4-(3-Aminophenyl)-1-(phenylmethyl)-2-piperazinecarboxamide
To 4-[3-(acetylamino)phenyl]-1-(phenylmethyl)-2-piperazinecarboxamide (14.0g, 39.9 mmol) in methanol (115 mL) add 6N aqueous hydrochloric acid (28 mL). Stir the reaction at reflux. Monitor the progress of the reaction by thin-layer chromatography. Upon completion of the reaction adjust the pH to 12 with 4N aqueous NaOH to obtain a white precipitate. Filter the precipitate to obtain the title compound.

reactant | 4-[3-(acetylamino)phenyl]-1-(phenylmethyl)-2-piperazinecarboxamide | 39.9 mmol, 14.0g | C(C)(=O)NC=1C=C(C=CC1)N1CC(N(CC1)CC1=CC=CC=C1)C(=O)N | C20H24N4O2
reactant | hydrochloric acid | 6N, 28 mL | Cl | ClH
reactant | NaOH | 4N | [OH-].[Na+]
solvent | methanol | 115 mL | CO | CH4O
product | 4-(3-Aminophenyl)-1-(phenylmethyl)-2-piperazinecarboxamide | NC=1C=C(C=CC1)N1CC(N(CC1)CC1=CC=CC=C1)C(=O)N | C18H22N4O
